US08445523B2
150 μl (0.71 mmol, 1.2 eq.) of 2,6-diisopropylphenylisocyanate are added to a solution of 130 mg (0.59 mmol, 1 eq.) of 1-(pyridin-3-ylamino)-cyclohexanecarboxylic acid amide in 5 ml of toluene. The reaction medium is stirred at 200° C. for 1 hour 30 minutes under microwave irradiation. The toluene is evaporated off and the residue is purified on silica gel (heptane and then with an increasing percentage of ethyl acetate). 1-Pyridin-3-yl-1,3-diaza-spiro[4.5]decane-2,4-dione is obtained in the form of a white solid. Melting point=264-266° C.

reactant | 2,6-diisopropylphenylisocyanate | 0.71 mmol, 150 μl, 1.2 eq. | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | 1-(pyridin-3-ylamino)-cyclohexanecarboxylic acid amide | 0.59 mmol, 130 mg, 1 eq. | N1=CC(=CC=C1)NC1(CCCCC1)C(=O)N | C12H17N3O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Pyridin-3-yl-1,3-diaza-spiro[4.5]decane-2,4-dione | N1=CC(=CC=C1)N1C(NC(C12CCCCC2)=O)=O | C13H15N3O2
